US07678818B2
Preparation of 2-cyclopropylamino-5-trifluoromethyl-benzoic acid
1 g of 2-fluoro-5-trifluoromethyl-benzoic acid (4.81 mmol) was dissolved in DCM (10 ml) and 1.03 ml of oxalylchloride (12.01 mmol) and a drop of DMF were added at RT. The mixture was stirred for 1 h before all volatile materials were removed in vacuo. The remaining residue was again dissolved in DCM (10 ml) and 1.4 ml of ethanol was added. After 1 h the reaction mixture was diluted with DCM and then washed with 10% aqueous KHCO3 solution, water and brine, dried (MgSO4), filtered and concentrated. The remaining material was dissolved in DMSO (6 ml), 5.57 ml of cyclopropylamine (79.4 mmol) were added and the mixture was heated to 110° C. over night in a sealed tube. The reaction mixture was then cooled to RT, diluted with ethyl acetate, washed with diluted HCl, 10% aqueous KHCO3 solution, water and brine, dried (MgSO4), filtered and concentrated. Then THF (20 ml), methanol (10 ml) and 8 ml of a 1N LiOH solution were added and the resulting solution was stirred over night at RT. The organic solvents were then removed in vacuo and the solution was acidified with 1N HCl and extracted with ethyl acetate. The combined organic extracts were dried (MgSO4), filtered and concentrated. The remaining solid was triturated with a small amount of chloroform. Filtration gave 391 mg (33%) of the title compound as light brown crystals. 1HNMR (DMSO-d6, 300 MHz): δ 0.53 (m, 2H), 0.85 (m, 2H), 2.56 (m, 1H), 7.24 (d, J=8.9 Hz, 1H), 7.71 (dd, J=8.9 and 2.1 Hz, 1H), 8.02 (s, 1H), 8.30 (br s, 1H), 13.21 (br s, 1H).

reactant | 2-fluoro-5-trifluoromethyl-benzoic acid | 4.81 mmol, 1 g | FC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4F4O2
reactant | oxalylchloride | 12.01 mmol, 1.03 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | cyclopropylamine | 79.4 mmol, 5.57 ml | C1(CC1)N | C3H7N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-cyclopropylamino-5-trifluoromethyl-benzoic acid | 391 mg, 33% | C1(CC1)NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C11H10F3NO2
